US05439910
A solution of 2-chloro-4-ethoxy pyrimidine (20 g from the reaction of 1 equivalent of sodium ethoxide with 2,4-dichloropyrimidine at 0°-5° C.) in ether (50 ml) was added to ice cooled trimethylamine (50 ml of a 30% aqueous solution). After stirring the mixture for 2 hours a solution of potassium cyanide (9.0 g) in water (50 ml) was added and the resulting mixture was stirred vigorously at room temperature. After 16 hours the reaction mixture was extracted with ether (3×50 ml) and the combined extracts were washed with brine, dried and concentrated to give 2-cyano-4-ethoxypyrimidine (14.6 g, 77% yield) as a pale yellow liquid which gradually crystallised (m.p. 35° C.); 1H NMR (270 MHz): δ1.42(3H,t), 4.49(2H,q), 6.89(1H,d), 8.49(1H,d) ppm.

reactant | 2-chloro-4-ethoxy pyrimidine | ClC1=NC=CC(=N1)OCC | C6H7ClN2O
reactant | sodium ethoxide | 1 equivalent | [O-]CC.[Na+]
reactant | 2,4-dichloropyrimidine | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | trimethylamine | CN(C)C | C3H9N
reactant | potassium cyanide | 9.0 g | [C-]#N.[K+]
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | water | 50 ml | O | H2O
product | 2-cyano-4-ethoxypyrimidine | 14.6 g, 77% yield | C(#N)C1=NC=CC(=N1)OCC | C7H7N3O
